### PR TITLE
Support spaceship operator, library specs

### PR DESCRIPTION
**Pull request by pgiarrusso-sl**
Specify <compare> as needed, with spaceship hint, and add end-to-end test.

Part of https://github.com/SkyLabsAI/BRiCk/issues/148.

### CODE REVIEW

File: rocq-brick-libstdcpp/proof/compare/spec.v [hunk 1]
```diff
@@ -0,0 +1,287 @@
...
+    \post[Vbool (bool_decide (lhs_v = rhs_v))] emp).
+
+  (* TODO AUTO: Not supported by the parser yet. *)
+  cpp.spec (Nscoped "std::strong_ordering" (Nop_conv function_qualifiers.Nc (Tnamed "std::partial_ordering")))
+      as strong_to_partial from source with (
+      \this this
+      \prepost{q v} this |-> strong_orderingR q v
+      \post{result}[Vptr result] result |-> partial_orderingR 1$m (Some v)).
+
+  (* TODO AUTO: Not supported by the parser yet. *)
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/compare/spec.v]: Issue somewhere in `cpp.spec`.

File: rocq-brick-libstdcpp/test/compare/test.cpp [hunk 2]
```diff
@@ -0,0 +1,159 @@
...
+    std::strong_ordering less = 1 <=> 2;
+    std::strong_ordering equal = 7 <=> 7;
+    std::strong_ordering greater = 9 <=> 3;
+
+    return std::is_lt(less) &&
+           (std::is_eq(equal) &&
+           (std::is_gt(greater) &&
+           (less == std::strong_ordering::less &&
+           (equal == std::strong_ordering::equal &&
+           greater == std::strong_ordering::greater))));
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test.cpp:56]: TODO: split these into multiple asserts to avoid short-circuiting issues.

And tell agents (?).

File: rocq-brick-libstdcpp/proof/compare/nans.v [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+    is_quiet_nan_pl val
+  | _ => false (* Not a NaN at all *)
+  end.
+
+Definition is_signaling_nan (f : binary_float prec emax) : bool :=
+  match f with
+  | B754_nan _ _ _ val _ =>
+    negb (is_quiet_nan_pl val)
+  | _ => false
+  end.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/compare/nans.v]: This file doesn't belong here — committed by accident.

But it defines the correct model for `std::numeric_limits<double>::quiet_NaN()`.

File: rocq-brick-libstdcpp/proof/compare/spec.v (hunk 1 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/spec.v]: Fixed, use the fix.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 4]
```diff
@@ -0,0 +1,813 @@
...
+ * This software is distributed under the terms of the BedRock Open-Source License.
+ * See the LICENSE-BedRock file in the repository root for details.
+ *)
+Require Import skylabs.auto.cpp.prelude.test.
+
+Require Import skylabs.brick.libstdcpp.cassert.spec.
+Require Import skylabs.brick.libstdcpp.compare.spec.
+Require Import skylabs.brick.libstdcpp.test.compare.test_cpp.
+
+Record IntPoint := {
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Honestly `test.cpp` specs could be split in multiple `pred` and `spec` files.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 5]
```diff
@@ -0,0 +1,813 @@
...
+#[only(eq_dec)] derive FloatingBox.
+#[global] Instance SplitRecord_FloatingBox : SplitRecord FloatingBox := {}.
+
+Definition floating_box_compare (p p' : FloatingBox) : option comparison :=
+  float_value.value_compare
+    p.(floating_box_value) p'.(floating_box_value).
+
+sl.lock
+Definition IntPointR `{Σ : cpp_logic, σ : genv} (q : cQp.t) (p : IntPoint) : Rep :=
+  let '{| int_point_x := x; int_point_y := y |} := p in
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Nit: unnecessary match.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 6]
```diff
@@ -0,0 +1,813 @@
...
+    cpp.spec "TestComparisonCategories()" as test_comparison_categories with (
+      \prepost{q_globals} std.compare.compare_globals q_globals
+      \post[Vbool true] emp).
+
+    cpp.spec "TestDefaultedIntegerClass()" as test_defaulted_integer_class with (
+      \prepost{q_globals} std.compare.strong_ordering_globals q_globals
+      \post[Vbool true] emp).
+
+    cpp.spec "TestWeakOrderingClass()" as test_weak_ordering_class with
+      (
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]:
```suggestion
    cpp.spec "TestWeakOrderingClass()" as test_weak_ordering_class with (
```

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 7]
```diff
@@ -0,0 +1,813 @@
...
+    Abbreviation wp_initialize := (wp_initialize tu ρ).
+    Abbreviation wp_discard := (wp_discard tu ρ).
+    Abbreviation wp := (wp tu ρ).
+    Abbreviation wp_decl := (wp_decl tu ρ).
+
+    #[local] Open Scope free_scope.
+
+
+    Lemma wp_lval_global Q nm ty :
+      wp.check_global tu nm ty =[Vm]=> true ->
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Here we use `=[Vm]=>` instead of `=[Vm?]=>` — and that seems safer.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 8]
```diff
@@ -0,0 +1,813 @@
...
+        | Some res_name =>
+          let ctor := cls .:: Nctor [Tref $ Tconst $ Tnamed cls] in
+          let arg := Eglobal (cls .:: Nid res_name) (Tconst (Tnamed cls)) in
+          wp_init ty addr
+            (Econstructor ctor [arg] ty)
+            (fun free' => Q (free' >*> free))
+        end
+      | _ => False
+      end%I)
+    |-- wp_init ty addr (Ebinop Bcmp e1 e2 ty) Q.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: This is the new proposed axiom.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 9]
```diff
@@ -0,0 +1,813 @@
...
+        (match te1 with
+        | Tnum _ _ =>
+          std.compare.strong_ordering_globals q
+        | Tfloat_ _ =>
+          std.compare.partial_ordering_globals q
+        | _ => True
+        end)
+        (* XXX [(1 >*> 1) >*>] is unfortunate temporary noise *)
+        (Q ((1 >*> 1) >*> free))))
+    |-- wp_init ty addr (Ebinop Bcmp e1 e2 ty) Q.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: @gmalecha-at-skylabs this is the new folded hint, combining axiom and constructor invocation. Does this look reasonable?

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v (hunk 8 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: @gmalecha-at-skylabs

Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: It's crucial to ensure that `(Econstructor ctor [arg] ty)` is well-typed, or this can't be sound.
We should check that `decltype.of_expr (Econstructor ctor [arg] ty) = ty`

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 10]
```diff
@@ -0,0 +1,813 @@
...
+          let b' := eq_rect f' float_type.car b fty H' in
+          let cmp_res := float_value.value_compare a' b' in
+          (R ** p |-> std.compare.partial_orderingR 1$m cmp_res) -* Q
+        | _, _ => False
+        end
+      | _, _, _ => False
+      end.
+    #[global] Hint Opaque cmp_res : sl_opacity.
+
+    Lemma wp_init_binop_spaceship_stdlib_hint e1 e2 ty te1 (addr : ptr) cls Q :
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Add support for enumerations.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 11]
```diff
@@ -0,0 +1,813 @@
...
+      (∃ q,
+      (match te1 with
+      | Tnum _ _ =>
+        std.compare.strong_ordering_copy_ctor **
+        std.compare.strong_ordering_globals q
+      | Tfloat_ _ =>
+        std.compare.partial_ordering_copy_ctor **
+        std.compare.partial_ordering_globals q
+      | _ => False
+      end) **
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Require these after `eval2` of the operands; fold it into `cmp_res`.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v [hunk 12]
```diff
@@ -0,0 +1,813 @@
...
+
+    Definition cmp_res (te1 : type) (v1 v2 : val) (p : ptr) R Q : mpred :=
+      match te1, v1, v2 with
+      | Tnum sz sgn, Vint a, Vint b =>
+        (* from arith_as *)
+        if bool_decide (int_rank.t_le int_rank.Iint sz) then
+          let cmp_res := Z.compare a b in
+          (R ** p |-> std.compare.strong_orderingR 1$m cmp_res) -* Q
+        else
+          False%I
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Consider using `ERROR` instead of `False` throughout.

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v (hunk 8 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: Done, but `decltype.of_expr (Econstructor ctor [arg] ty) = Some ty` reduces to `mret ty = Some ty`.

Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: `of_expr_body`, `Econstructor` case, has a TODO:
`(* TODO: check the type of the constructor [f] *)`

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 13]
```diff
@@ -0,0 +1,182 @@
...
+    Lemma wp_lval_global Q nm ty :
+      wp.check_global tu nm ty =[Vm]=> true ->
+          Q (_global nm) FreeTemps.id
+      |-- wp_lval (Eglobal nm ty) Q.
+    Proof.
+      rewrite RedEq_eq_iff => H.
+      apply @wp.wp_lval_global.
+      by rewrite RedEq_eq_iff H.
+    Qed.
+    Definition wp_lval_global_B := [BWD] wp_lval_global.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:50]: This looks like it is in the wrong place. Is it actually needed?

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 14]
```diff
@@ -0,0 +1,182 @@
...
+    #[local] Abbreviation wp_operand := (wp_operand tu ρ).
+    #[local] Open Scope free_scope.
+
+    Lemma wp_operand_frame' e :
+      ⊢ wp.WPE.Mframe (wp_operand e) (wp_operand e).
+    Proof.
+      rewrite /wp.WPE.Mframe.
+      iIntros "* W".
+      by iApply wp_operand_frame.
+    Qed.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:69]: This looks redundant.

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 15]
```diff
@@ -0,0 +1,182 @@
...
+
+    Definition strong_ordering_result_names : list PrimString.string :=
+      Eval compute in (strong_ordering_result_name <$> enum _).
+    Succeed Example foo :
+      strong_ordering_result_names = ["equal"; "less"; "greater"]%pstring := eq_refl.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:74]: I'm not sure that I understand the motivation for this. Why compute it in one line and then write it out in the next line?

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 16]
```diff
@@ -0,0 +1,182 @@
...
+
+    Definition partial_ordering_result_names : list PrimString.string :=
+      Eval compute in (partial_ordering_result_name <$> enum _).
+    Succeed Example foo :
+      partial_ordering_result_names =
+      ["unordered" ; "equivalent" ; "less" ; "greater"]%pstring := eq_refl.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:80]: Same as above.

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 17]
```diff
@@ -0,0 +1,182 @@
...
+          Some "std::partial_ordering"%cpp_name
+      | _ => None
+      end.
+
+    Definition cmp_res (te1 : type) (v1 v2 : val) (p : ptr) (Q : mpred) : mpred :=
+      ∃ q,
+      match te1, v1, v2 with
+      | Tnum sz sgn, Vint a, Vint b =>
+        (* from arith_as *)
+        if bool_decide (int_rank.t_le int_rank.Iint sz) then
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:100]: This `if` doesn't look relevant.

File: rocq-brick-libstdcpp/proof/compare/hints.v [hunk 18]
```diff
@@ -0,0 +1,182 @@
...
+        | Tnum _ _ => strong_ordering_result_names
+        | Tfloat_ _ => partial_ordering_result_names
+        | _ => []
+        end in
+      bool_decide (res_to_type <$> args = const (Some ty) <$> args).
+
+    Lemma wp_init_binop_spaceship_stdlib_hint e1 e2 ty te1 (addr : ptr) cls Q :
+      (drop_qualifiers (type_of e1), drop_qualifiers (type_of e2), snd (decompose_type ty)) =[Vm]=> (te1, te1, Tnamed cls) ->
+      (Tnamed <$> cmp_expected_cls te1) =[Vm]=> Some ty ->
+      wp_init_binop_spaceship_stdlib_hint_typecheck ty te1 cls =[Vm]=> true ->
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/hints.v:145]: I am guessing that this code could be lifted and potentially shared.

File: rocq-brick-libstdcpp/proof/compare/inc_compare.cpp [hunk 19]
```diff
@@ -0,0 +1,2 @@
+#include <compare>
+#include <limits>
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/inc_compare.cpp]: Why do you need `#include <limits>`?

File: rocq-brick-libstdcpp/proof/compare/nans.v [hunk 20]
```diff
@@ -0,0 +1,78 @@
+(*
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/nans.v]: This file looks like it should be upstreamed to Flocq or at least to BRiCk

File: rocq-brick-libstdcpp/proof/compare/spec.v [hunk 21]
```diff
@@ -0,0 +1,282 @@
...
+  cpp.spec (Nscoped "std::weak_ordering" (Nop_conv function_qualifiers.Nc (Tnamed "std::partial_ordering")))
+      as weak_to_partial from source with (
+      \this this
+      \prepost{q v} this |-> weak_orderingR q v
+      \post{result}[Vptr result] result |-> partial_orderingR 1$m (Some v)).
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/spec.v]: I believe that these should now be supported.

File: rocq-brick-libstdcpp/proof/compare/spec.v [hunk 22]
```diff
@@ -0,0 +1,282 @@
...
+    unspec_lt_partial_ordering **
+    unspec_cmp_partial_ordering **
+    unspec_gt_strong_ordering **
+    unspec_cmp_strong_ordering **
+    unspec_cmp_weak_ordering **
+    is_eq **
+    is_lt **
+    is_gt.
+  #[global] Hint Opaque specs : typeclass_instances sl_opacity.
+  #[only(knowledge)] derive specs.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/compare/spec.v:276]: Is there any point in bundling these?

**Review by gmalecha-at-skylabs — APPROVED** [review]

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 13 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:50]: Needs upstreaming. The hint proof loops without it.

File: rocq-brick-libstdcpp/proof/compare/nans.v (hunk 20 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/nans.v]: It's not yet used, but yes it could be upstreamed.

File: rocq-brick-libstdcpp/proof/compare/inc_compare.cpp (hunk 19 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/inc_compare.cpp]: I'll check.

File: rocq-brick-libstdcpp/proof/compare/spec.v (hunk 22 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/spec.v:276]: For linking statements, which are valuable as discussed.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 14 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:69]: Needed for proofs.

File: rocq-brick-libstdcpp/proof/compare/spec.v (hunk 21 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/spec.v]: Fixed.
https://github.com/SkyLabsAI/BRiCk/issues/265 tracks another one.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 13 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:50]: I'll leave that to a follow-up, just to get this in.

File: rocq-brick-libstdcpp/test/compare/test.cpp (hunk 2 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test.cpp:56]: https://github.com/SkyLabsAI/auto/issues/355

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v (hunk 10 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: https://github.com/SkyLabsAI/auto/issues/355

File: rocq-brick-libstdcpp/proof/compare/nans.v (hunk 3 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/nans.v]: https://github.com/SkyLabsAI/auto/issues/355

File: rocq-brick-libstdcpp/test/compare/test_cpp_proof.v (hunk 12 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/compare/test_cpp_proof.v]: https://github.com/SkyLabsAI/auto/issues/355

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 15 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:74]: Just an inline test/doc for the computation. I prefer to keep it, so resolving.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 17 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:100]: We expect other types to be promoted before being compared.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 18 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:145]: I don't see how.

File: rocq-brick-libstdcpp/proof/compare/nans.v (hunk 20 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/nans.v]: Moving it out.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 18 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:145]: Added to https://github.com/SkyLabsAI/auto/issues/355.

File: rocq-brick-libstdcpp/proof/compare/hints.v (hunk 17 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/hints.v:100]: https://github.com/SkyLabsAI/auto/issues/355

File: rocq-brick-libstdcpp/proof/compare/inc_compare.cpp (hunk 19 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/proof/compare/inc_compare.cpp]: Not needed.
